US08309580B2
(1) 3-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine
To a solution of cyclohexyl[2-methyl-5-(pyridin-3-yl)furan-3-yl]methanol (1.6 g) in toluene (20 mL) was added thionyl chloride (1.3 mL), and the mixture was stirred at room temperature for 4 hr. The solvent was evaporated under reduced pressure to give the title compound (1.7 g, 100%) as an amorphous compound.

reactant | cyclohexyl[2-methyl-5-(pyridin-3-yl)furan-3-yl]methanol | 1.6 g | C1(CCCCC1)C(O)C1=C(OC(=C1)C=1C=NC=CC1)C | C17H21NO2
reactant | thionyl chloride | 1.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine | 1.7 g, 100% | ClC(C=1C=C(OC1C)C=1C=NC=CC1)C1CCCCC1 | C17H20ClNO
